US04849448
In 35 ml of acetic acid was dissolved 10.5 g of methyl 5-methoxy-3,4-methylenedioxybenzoate, and a solution of bromine (formed by diluting 8 g of bromine with 25 ml of acetic acid) was dropped into the solution over a period of 1 hour. The mixture was stirred at room temperature for 10 hours and the reaction liquid was poured into ice water, and the formed precipitate was recovered by filtration and recrystallized from ethanol to obtain methyl 2-bromo-5-methoxy-3,4-methylenedioxybenzoate (the yield was 51%).

reactant | methyl 5-methoxy-3,4-methylenedioxybenzoate | 10.5 g | COC=1C2=C(C=C(C(=O)OC)C1)OCO2 | C10H10O5
reactant | bromine | 25 ml, 8 g | BrBr | Br2
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | methyl 2-bromo-5-methoxy-3,4-methylenedioxybenzoate | yield was 51% | BrC1=C(C(=O)OC)C=C(C2=C1OCO2)OC | C10H9BrO5
